US07186734B2
1-Butyl-2,4-diphenyl-5-hydroxymethylimidazole (117).
1-Butyl-2,4-diphenylimidazole (3 g) is dissolved in 50 ml of acetic acid with 50 ml of 37% aqueous formalin solution. The mixture is heated at reflux for 48 h, cooled and the solvents evaporated. The residue is triturated with ether and filtered. The filtrate is concentrated and partitioned between ethyl acetate (100 mL) and 5% aqueous acetic acid (100 mL). The aqueous layer is extracted with ethyl acetate (100 mL). The combined organic extracts are washed with 1N NaOH solution, brine, dried over Na2SO4, and concentrated. The crude product is triturated with ethyl acetate to give the product as a white solid. 1H NMR (CDCl3) 7.73 (d, J=5 Hz, 2H), 7.62 (d, J=4 Hz, 2H), 7.3–7.5 (m, 6H), 4.82 (s, 2H), 4.10 (t, J=7 Hz, 2H), 1.7 (m, 2H), 1.25 (m, 2H), 0.85 (t, J=7 Hz, 3H).

reactant | 1-Butyl-2,4-diphenylimidazole | 3 g | C(CCC)N1C(=NC(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C19H20N2
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | formalin | 50 ml | C=O | CH2O
product | 1-Butyl-2,4-diphenyl-5-hydroxymethylimidazole | C(CCC)N1C(=NC(=C1CO)C1=CC=CC=C1)C1=CC=CC=C1 | C20H22N2O
